US03979514
A mixture of 4'-(2-bromopropionyl)methanesulfonanilide (15.3 g., 0.05 mole) and α,60 -dimethylphenethylamine (16.42 g., 0.11 mole) in 200 ml. of acetonitrile is refluxed for a period of 16 hr. The product is isolated by concentrating the reaction mixture under reduced pressure, dissolving the residue in chloroform which is then washed with water, dried over magnesium sulfate, filtered through diatomaceous earth and concentrated to provide an oily residue of the crude product free base. The residue is taken up in butanone, acidified with ethanolic hydrogen chloride and the insoluble hydrochloride salt product collected, washed with butanone and dried. Crystallization of the hydrochloride salt from methanol-isopropyl alcohol and drying at high vacuum affords analytically pure 4'-[N-α,α-DIMETHYLPHENETHYL)-ALANYL]METHANESULFONANILIDE HYDROCHLORIDE, m.p. 236.0°-237.0°C. (dec.).

reactant | 4'-(2-bromopropionyl)methanesulfonanilide | 0.05 mole, 15.3 g | BrC(C(=O)C1=CC=C(NS(=O)(=O)C)C=C1)C | C10H12BrNO3S
reactant | acetonitrile | C(C)#N | C2H3N
reactant | hydrogen chloride | Cl | ClH
solvent | butanone | CC(CC)=O | C4H8O
product | METHANESULFONANILIDE HYDROCHLORIDE | Cl.CS(=O)(=O)NC1=CC=CC=C1 | InChI=1S/C7H9NO2S.ClH/c1-11(9,10)8-7-5-3-2-4-6-7;/h2-6,8H,1H3;1H
